### PR TITLE
[Merged by Bors] - feat(RingTheory/LocalRing): results for non-local rings

### PR DESCRIPTION
**Pull request by mistarro**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mistarro** [comment]
Link to Zulip thread: [#mathlib4 > Results for non-local rings](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Results.20for.20non-local.20rings)

File: Mathlib/RingTheory/LocalRing/NonLocalRing.lean [hunk 1]
```diff
@@ -0,0 +1,107 @@
...
+
+/-!
+
+# Non-local rings
+
+This file gathers some results about non-local rings.
+
+## Main results
+
+- `not_isLocalRing_of_nontrivial_pi`: for an index type `ι` with least two elements and
```
Comment (jcommelin) [inline Mathlib/RingTheory/LocalRing/NonLocalRing.lean:19]:
```suggestion
- `not_isLocalRing_of_nontrivial_pi`: for an index type `ι` with at least two elements and
```

**Review by jcommelin — COMMENTED** [review]
Do you think it makes sense to prove a `not_isLocalRing_tfae` to put all these equivalent conditions together?

**Comment by mistarro** [comment]
> Do you think it makes sense to prove a `not_isLocalRing_tfae` to put all these equivalent conditions together?

Oh, I haven't seen TFAE results yet and in this specific case can't imagine what would be beneficial? And I guess you mean to pack them all into one, or to prove as an extra?

File: Mathlib/RingTheory/LocalRing/NonLocalRing.lean [hunk 2]
```diff
@@ -0,0 +1,107 @@
...
+theorem exists_surjective_of_not_isLocalRing.{u} {R : Type u} [CommRing R] [Nontrivial R]
+    (h : ¬IsLocalRing R) :
+    ∃ (K₁ K₂ : Type u) (_ : Field K₁) (_ : Field K₂) (f : R →+* K₁ × K₂),
+      Function.Surjective f := by
+  /- get two different maximal ideals and project on the product of quotients -/
+  obtain ⟨m₁, m₂, _, _, hm₁m₂⟩ := exist_maximal_ne_of_not_isLocalRing h
+  let e := Ideal.quotientInfEquivQuotientProd m₁ m₂ <| Ideal.isCoprime_of_isMaximal hm₁m₂
+  let f := e.toRingHom.comp <| Ideal.Quotient.mk (m₁ ⊓ m₂)
+  use R ⧸ m₁, R ⧸ m₂, Ideal.Quotient.field m₁, Ideal.Quotient.field m₂, f
+  apply Function.Surjective.comp e.surjective Ideal.Quotient.mk_surjective
```
Comment (jcommelin) [inline Mathlib/RingTheory/LocalRing/NonLocalRing.lean:105]: I had in mind packing all of this into a single `tfae` statement.

Comment (mistarro) [reply Mathlib/RingTheory/LocalRing/NonLocalRing.lean:105]: I see, but some implications have weaker assumption. For TFAE, I guess I would have to assume `[Nontrivial R]` for all of them?

Comment (mistarro) [reply Mathlib/RingTheory/LocalRing/NonLocalRing.lean]: Ok, done :)

Comment (jcommelin) [reply Mathlib/RingTheory/LocalRing/NonLocalRing.lean]: Thanks. Can't you even include the final statement `exists_surjective_of_not_isLocalRing` as part of it?

I'll leave it up to you whether you do that.

bors d+

Comment (mistarro) [reply Mathlib/RingTheory/LocalRing/NonLocalRing.lean]: `exists_surjective_of_not_isLocalRing` has strong conclusion (`K`'s are fields), and the other direction could have weaker premise (merely semirings). I think it would not be as useful, would it? Maybe I could create another PR where we could discuss it further?
